*******************************************************************************
*                                                                             *
* Library:      SG13G2_dev                                                    *
* Technologies: SG13G2                                                        *
*                                                                             *
* Model:        PSP 103.6                                                     *
* Revision:     200310                                                        *
*                                                                             *
*******************************************************************************
*                                                                             *
* Copyright 2023 IHP PDK Authors                                              *
*                                                                             *
* Licensed under the Apache License, Version 2.0 (the "License");             *
* you may not use this file except in compliance with the License.            *
* You may obtain a copy of the License at                                     *
*                                                                             *
*     https://www.apache.org/licenses/LICENSE-2.0                             *
*                                                                             *
* Unless required by applicable law or agreed to in writing, software         *
* distributed under the License is distributed on an "AS IS" BASIS,           *
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
* See the License for the specific language governing permissions and         *
* limitations under the License.                                              *
*                                                                             *
*******************************************************************************
*******************************************************************************
*                                                                             *
*                                                                             *
*              C O M M O N    SG 13  M O S     M O D E L S                    *
*                                                                             *
*                                                                             *
*******************************************************************************
*
* NOTE: do not include this file directly in the netlist, use models.typ, .bcs or .wcs only
*
*
*
*******************************************************************************
* variable C section
*******************************************************************************



*******************************************************************************
* MOS transistor section
*******************************************************************************



* MOS-Subckt with D/S-overlap possibility
*
*       z1              z2            z1
*   ----------------------------------------
*   |          |   |         |   |         |
*   |    S     | G |   D     | G |    S    |  w/ng, >=0.15u
*   |          |   |         |   |         |
*   ----------------------------------------
*
*  z1=0.34u, z2=0.38u
*
* Parameters as,ad,ps,pd are calculated automatically, if <= 0
*
*

.subckt sg13_lv_nmos d g s b
+ w=0.35u l=0.34u ng=1 m=1 as=0 ad=0 pd=0 ps=0 trise=0 z1=0.34e-6 z2=0.38e-6 wmin=0.15e-6 rfmode=0 pre_layout=1
* if as = 0, calculate value, else take it
* if as is given externally, no adjustment for ng is done! -> must be done in the extractor
* if ng>1 and as=0 (in schematic) recalculate!

* include the model parameters
.include sg13g2_moslv_parm.lib

YPSP103_VA M1 d g s b sg13g2_lv_nmos_psp w='agauss(w/ng, sg13g2_lv_nmos_dw_mm, nsigmas)' l='agauss(l, sg13g2_lv_nmos_dl_mm, nsigmas)' 
+ as='as/ng' ad='ad/ng' pd='pd/ng' ps='ps/ng' mult='ng*m'
+ dta=trise
+ ngcon=2
+ delvto='agauss(0, sg13g2_lv_nmos_delvto_mm, nsigmas)' factuo='agauss(1, sg13g2_lv_nmos_factuo_mm, nsigmas)'
.ends


.subckt sg13_lv_pmos d g s b
+ w=0.35u l=0.28u ng=1 m=1 as=0 ad=0 pd=0 ps=0 trise=0 z1=0.34e-6 z2=0.38e-6 wmin=0.15e-6 rfmode=0 pre_layout=1

* include the model parameters
.include sg13g2_moslv_parm.lib

YPSP103_VA M1 d g s b sg13g2_lv_pmos_psp w='agauss(w/ng, sg13g2_lv_nmos_dw_mm, nsigmas)' l='agauss(l, sg13g2_lv_nmos_dl_mm, nsigmas)'
+ as='as/ng' ad='ad/ng' pd='pd/ng' ps='ps/ng' mult='ng*m'
+ dta=trise
+ ngcon=2
+ delvto='agauss(0, sg13g2_lv_pmos_delvto_mm, nsigmas)' factuo='agauss(1, sg13g2_lv_pmos_factuo_mm, nsigmas)'
.ends
